US07888352B2
To 2-chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine (54 mg) in DCM (2 ml) and triethylamine (44 ul) was added methylsulfonylmethylsulfonyl chloride (45 ul) at 0° C. The reaction mixture was allowed to warm up to room temperature overnight. Aqueous work-up and purification on silica gave 2-chloro-6-(4-methanesulfonylmethanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine (35 mg).

reactant | 2-chloro-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | 54 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C15H20ClN5OS
reactant | methylsulfonylmethylsulfonyl chloride | 45 ul | CS(=O)(=O)CS(=O)(=O)Cl | C2H5ClO4S2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 44 ul | C(C)N(CC)CC | C6H15N
product | 2-chloro-6-(4-methanesulfonylmethanesulfonyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | 35 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)S(=O)(=O)CS(=O)(=O)C)N2CCOCC2 | C17H24ClN5O5S3
